US05616586
9-Chloro-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-chloro-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (200 mg, 0.68 mmol) and aniline (200 mg, 2.15 mmol) to give 150 mg of the title compound (60%):mp >280° C.; 1H NMR (270 MHz, DMSO-d6) δ12.09 (bs, 1H), 10.02 (s, 1H), 7.57 (d, 2H, J=7.8 Hz), 7.30 (t, 2H, J=7.8 Hz), 7.14 (s, 1H), 7.06 (t, 1H, J=7.8 Hz), 7.05 (s, 1H), 5.14~5.29 (m, 1H), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.82 (dm, 1H, J=17.1 Hz), 2.55~2.70 (m, 2H), 2.10 (dm, 1H, J=13.5 Hz), 1.80~1.96 (m, 1H).

reactant | 9-chloro-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.68 mmol, 200 mg | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11ClN2O4
reactant | aniline | 2.15 mmol, 200 mg | NC1=CC=CC=C1 | C6H7N
product | 9-Chloro-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 150 mg, 60% | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=CC=C2)=O | C19H16ClN3O3
